US08314091B2
C; Methyl 4-methoxy-3-((4-(4-(3-phenylureido)benzoyl)piperazin-1-yl)methyl)benzoate
1-Phenyl-3-(4-(piperazin-1-carbonyl)phenyl)urea (439 mg, 1.0 mmol) was stirred in acetonitrile (8 mL) at room temperature for 1 hour, N-Ethyl-N-isopropylpropan-2-amine (697 μl, 4 mmol) was added, followed by a solution of methyl 3-(chloromethyl)4-methoxy-benzoate (215 mg, 1.0 mmol) in acetonitrile (5 mL). The mixture was heated to 45° C. and stirred overnight. The mixture was concentrated under vacuum, diluted with dichloromethane (40 mL) and washed with saturated aqueous ammonium chloride (25 mL) and saturated aqueous sodium chloride (25 mL). The organic phase was dried on magnesium sulfate, filtered and concentrated under vacuum. The residue was submitted to silica chromatography (0-10% methanol in dichloromethane as eluant) to give the title compound (216 mg). MS (ESI) m/z 503.1 [M+H]+

reactant | 1-Phenyl-3-(4-(piperazin-1-carbonyl)phenyl)urea | 1.0 mmol, 439 mg | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCNCC1 | C18H20N4O2
reactant | N-Ethyl-N-isopropylpropan-2-amine | 4 mmol, 697 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl 3-(chloromethyl)4-methoxy-benzoate | 1.0 mmol, 215 mg | ClCC=1C=C(C(=O)OC)C=CC1OC | C10H11ClO3
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | Methyl 4-methoxy-3-((4-(4-(3-phenylureido)benzoyl)piperazin-1-yl)methyl)benzoate | 216 mg | COC1=C(C=C(C(=O)OC)C=C1)CN1CCN(CC1)C(C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)=O | C28H30N4O5
